US03962445
b. 1-Ethyl-4-hydroxy-3-nitro carbostyril
A suspension of 1-ethyl-4-hydroxy carbostyril (1.09 g; 0.00575 mole) in glacial acetic acid (5 ml) was swirled during the rapid addition of concentrated nitric acid (1.25 ml; d 1.42) and the dark liquid heated for 5 minutes at 100°C. The yellow solid which separated on cooling was filtered off and washed well with ethanol m.p. 154°-5°C (decomp). (Found;C, 56.54; H, 4.52; N, 11.56; C11H10N2O4 requires; C, 56.41; H, 4.30, N, 11.96%).

reactant | 1-ethyl-4-hydroxy carbostyril | 0.00575 mole, 1.09 g | C(C)N1C(=O)C=C(C2=CC=CC=C12)O | C11H11NO2
reactant | nitric acid | 1.25 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-4-hydroxy-3-nitro carbostyril | C(C)N1C(=O)C(=C(C2=CC=CC=C12)O)[N+](=O)[O-] | C11H10N2O4
